US04122193
1-amino-3,5-di-n-butyl-adamantane hydrochloride
3.27 grams of 1-bromo-3,5-di-n-butyl-adamantane were warmed with 1.2 grams of urea for 160 minutes at 165° C. The heating was performed in a closed vessel in a thermostatically controlled oil bath. After cooling, the reaction product was suspended in 50 ml. water. The water phase was brought to a pH of about 4 through dropwise addition of concentrated hydrochloric acid. The water phase was then extracted with two 10-ml. portions of ether, and brought to a pH of about 13 by dropwise addition of sodium hydroxide. The alkaline solution was stirred for about 10 minutes, after which the aqueous alkaline phase was extracted with four 10-ml. portions of benzene. The combined benzene extracts were dried over fused potassium sulfate. 1-amino-3,5-di-n-butyl-adamantane hydrochloride was precipitated by exposure to dried hydrogen chloride gas. Yield: 1.86 grams (62% of the theoretical yeild).

reactant | 1-bromo-3,5-di-n-butyl-adamantane | 3.27 grams | BrC12CC3(CC(CC(C1)C3)(C2)CCCC)CCCC | C18H31Br
reactant | urea | 1.2 grams | NC(=O)N | CH4N2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-amino-3,5-di-n-butyl-adamantane hydrochloride | Cl.NC12CC3(CC(CC(C1)C3)(C2)CCCC)CCCC | InChI=1S/C18H33N.ClH/c1-3-5-7-16-9-15-10-17(12-16,8-6-4-2)14-18(19,11-15)13-16;/h15H,3-14,19H2,1-2H3;1H
